US20010021718A1
ethyl 2-[(1R)-1-(4,4-dimethyl-2-oxopentyl)-3-butenyl]-1,3-oxazole4-carboxylate
A suspension of copper (II) bromide (50.6 g, 226.6 mmol) and hexamethylenetetramine (31.6 g, 225.5 mmol) in dichloromethane (250 ml), under a nitrogen atmosphere, was treated with 1,8-diazabicyco[5.4.0]undec-7-ene (33 ml, 220.7 mmol). The mixture was cooled to 0° C. and treated with a solution of ethyl (4S)-2-[(1R)-1-(4,4-dimethyl-2-oxopentyl)-3-butenyl]4,5-dihydro-1,3-oxazole-4-carboxylate (Preparation 114) (17.6 g, 56.4 mmol) in dichloromethane (250 ml) via a cannula. The reaction mixture was allowed to warm to room temperature and stirred for 18 hours. The solvent was removed under reduced pressure and the residue was azeotroped with ethyl acetate. The residue was dissolved in ethyl acetate and washed with a 1:1 mixture of 0.880 ammonia solution: saturated aqueous ammonium chloride solution (×2), water, hydrochloric acid (2M) (×3), saturated aqueous sodium hydrogen carbonate solution and brine. The solvent was removed under reduced pressure. The oil was purified by column chromatography on silica gel eluting with a solvent gradient of 95:5 (hexane:diethylether) gradually changing to 50:50 (hexane:diethylether) to afford the title compound as a colourless oil (11.5 g).

reactant | hexamethylenetetramine | 225.5 mmol, 31.6 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | undec-7-ene | 220.7 mmol, 33 ml | CCCCCCC=CCCC | C11H22
reactant | ethyl (4S)-2-[(1R)-1-(4,4-dimethyl-2-oxopentyl)-3-butenyl]4,5-dihydro-1,3-oxazole-4-carboxylate | 56.4 mmol, 17.6 g | CC(CC(C[C@@H](CC=C)C=1OC[C@H](N1)C(=O)OCC)=O)(C)C | C17H27NO4
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
catalyst | copper (II) bromide | 226.6 mmol, 50.6 g | [Cu](Br)Br
product | ethyl 2-[(1R)-1-(4,4-dimethyl-2-oxopentyl)-3-butenyl]-1,3-oxazole4-carboxylate | 11.5 g | CC(CC(C[C@@H](CC=C)C=1OC=C(N1)C(=O)OCC)=O)(C)C | C17H25NO4
